US07071337B2
1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-ylamine (500 mg, 1.10 mmol) was dissolved in 10 mL of DCM under an atmosphere of dry N2. To this solution was added boron tribromide (300 mL, 3.30 mmol) and the mixture was stirred overnight at ambient temperature. Then an additional 200 mL of borontribromide was added and the mixture was stirred for two hours. The reaction mixture was then poured over crushed ice and the pH of the resulting solution was adjusted to 9 with the careful addition of sodium carbonate (Na2CO3). The slurry was filtered and the solid was washed with water followed by Et2O and then dried under vacuum to give 1-[8-(4-Amino-piperidin-1-yl)-quinolin-2-yl]-1H-benzoimidazol-5-ol as a yellow solid. C.I. m/z 360 [M+1]; 1H NMR (DMSO) δ 9.07 (s, 1 H), 8.76 (d, J=8.9 Hz, 1 H), 8.48 (d, J=8.9 Hz, 1 H), 8.10 (d, J=8.9 Hz, 1 H), 7.56 (d, J=7.4 Hz, 1 ), 7.45 (m, 1 H), 7.26 (d, J=7.4 Hz, 1 H), 7.01 (d, J=2.2 Hz, 1 H), 6.95 (dd, J=2.2, 8.9 Hz, 1 H), 3.72 (m, 2 H), 2.76 (m, 3 H), 1.88 (m, 2 H), 1.65 (m, 2 H).

reactant | 1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-ylamine | 1.10 mmol, 500 mg | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)N2CCC(CC2)N)C=C1 | C22H23N5O
reactant | boron tribromide | 3.30 mmol, 300 mL | B(Br)(Br)Br | BBr3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[8-(4-Amino-piperidin-1-yl)-quinolin-2-yl]-1H-benzoimidazol-5-ol | NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)O | C21H21N5O
